US04886821
Picolinic acid (10.0 g, 81 mmol) was added to a solution of 1,1'-carbonyldiimidazole (13.18 g, 81 mmol) in anhydrous dimethylformamide (80 mL), followed by the addition of 2-fluoroaniline (8.6 mL, 89 mmol) 1 hour later. The reaction mixture was poured into saturated sodium bicarbonate solution (900 mL) after 26 hours, and extracted with ether (3×400 mL). The dried organic material was concentrated in vacuo and recrystallized from a mixture of ether and petroleum ether to yield N-(2-fluorophenyl)-2-pyridinecarboxamide as a white solid (11.81 g) m.p. 112°-115° C.

reactant | Picolinic acid | 81 mmol, 10.0 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1,1'-carbonyldiimidazole | 81 mmol, 13.18 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-fluoroaniline | 89 mmol, 8.6 mL | FC1=C(N)C=CC=C1 | C6H6FN
reactant | sodium bicarbonate | 900 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | N-(2-fluorophenyl)-2-pyridinecarboxamide | 11.81 g | FC1=C(C=CC=C1)NC(=O)C1=NC=CC=C1 | C12H9FN2O
